US04288436
Ethyl 2-methoxyimino-2-(2,3-dihydro-1,4-dithiin-5-yl)acetate (syn isomer) (2.47 g) was treated with 1 N aqueous solution of sodium hydroxide (20 ml.) according to similar manners to those of Examples 1 (a) (5), 2 (a) (3) and 3(a) (3) to give 2-methoxyimino-2-(2,3-dihydro-1,4-dithiin-5-yl)acetic acid (syn isomer) (2.0 g.), mp. 120° to 122° C. (dec.).

reactant | Ethyl 2-methoxyimino-2-(2,3-dihydro-1,4-dithiin-5-yl)acetate | 2.47 g | CON=C(C(=O)OCC)C=1SCCSC1 | C9H13NO3S2
solvent | sodium hydroxide | 20 ml | [OH-].[Na+]
product | 2-methoxyimino-2-(2,3-dihydro-1,4-dithiin-5-yl)acetic acid | 2.0 g | CON=C(C(=O)O)C=1SCCSC1 | C7H9NO3S2
